US06521666B1
To a solution of N-(2,6-dichlorobenzoyl)-3-nitro-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (1.07 g) in MeOH (15 mL) was added Raney-Ni (100 mg) and H2 gas was bubbled through the mixture for 15 min. The mixture was filtered through Celite and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel; eluent: hexane to hexane/EtOAc 1:1) to give N-(2,6-dichlorobenzoyl)-3-amino-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (845 mg). ESMS: m/z 503 (MH+).

reactant | N-(2,6-dichlorobenzoyl)-3-nitro-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 1.07 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1OC)OC)[N+](=O)[O-])=O | C25H22Cl2N2O7
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Ni | 100 mg | [Ni] | Ni
product | N-(2,6-dichlorobenzoyl)-3-amino-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 845 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1OC)OC)N)=O | C25H24Cl2N2O5
